US07482346B2
3.1. 4-nitrophenyl 2-(methylamino)-2-oxoethyl carbonate
A suspension of 2.62 g (29.4 mmol) of 2-hydroxy-N-methylacetamide and 16.5 g (58.7 mmol) of supported diisopropylethylamine (Ps-DIEA from Argonaut, loading=3.56 mmol/g) in 250 ml of dichloromethane is admixed in small portions and at ambient temperature with 5.93 g (29.4 mmol) of 4-nitrophenyl chloroformate. Orbital stirring is continued at ambient temperature for 16 hours. The resin is filtered off and rinsed with 150 ml of dichloromethane and the filtrate is concentrated under reduced pressure. This gives 6 g of product in the form or a light yellow solid, which is used as it is in the following step.

reactant | 2-hydroxy-N-methylacetamide | 29.4 mmol, 2.62 g | OCC(=O)NC | C3H7NO2
reactant | diisopropylethylamine | 58.7 mmol, 16.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-nitrophenyl chloroformate | 29.4 mmol, 5.93 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 4-nitrophenyl 2-(methylamino)-2-oxoethyl carbonate | C(OC1=CC=C(C=C1)[N+](=O)[O-])(OCC(=O)NC)=O | C10H10N2O6
